Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
AMS
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with no significant past medical history who presents as
transfer for hyponatremia.

Patient recently traveled to ___ ___ over the past
___ days, he reports multiple episodes of nausea, vomiting,
non-bloody and non-bilious diarrhea, and cough. Denies
fevers/chills, chest pain/pressure, abdominal pain, dysuria,
hematuria, rashes. Denies drug use or recent trauma.

Per patient's friend, he woke up this morning expressing 
paranoid
thoughts and intermittent hallucinations. He presented to
___, where he was making erratic statements such as, "It 
is
a cancer; please remove my organs." Labs were notable for Na 
120,
glucose 198, serum osms 262, WBC 18.1, Hgb 13.3, platelets 514.
HCT without intracranial abnormality. He was given 1L NS and
hypertonic saline 100cc with repeat Na 121 and serum osms 264.

On transfer to the ___ ED, initial vitals were:
T98.8 HR 87 BP 138/76 RR 21 SpO2 97% RA

 
Past Medical History:
None
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
VITALS: Reviewed in MetaVision.
GENERAL: Sleeping, arouses to voice but falls back asleep 
quickly
HEENT: NC/AT, clear oropharynx, dry MM
CARDIAC: S1, S2, RRR, no m/r/g
PULMONARY: R-sided expiratory wheeze at the base
ABDOMEN: Soft, non-distended, non-tender
EXTREMITIES: No ___ edema
SKIN: No visible rashes/lesions
NEURO: Initially not oriented to time or place but after several
minutes, oriented to hospital and year; dilated pupils
bilaterally; strength full to confrontation; sustained clonus of
the ankles bilaterally

DISCHARGE PHYSICAL EXAM
======================
98.0 ___
GENERAL: NAD
HEENT:  PERRL, EOMI, OP clear
NECK: supple
CARDIAC: RRR.  No mrg
LUNGS: CTAB, EWOB, speaking in full sentences no w/r/r
ABDOMEN: SNTND, +BS, no rebound/guarding
EXTREMITIES: WWP
SKIN: No rash.
MSK: no joint effusions or tenderness. 
NEUROLOGIC: Alert and oriented x3. CN2-12 intact. No nystagmus. 
Strength ___ in major flexors/extensors or ___. Sensation to 
b/l ___ intact. No tremor. No asterixis. No clonus on exam.
Psych: mood and affect appropriate. 
 
Pertinent Results:
ADMISSION LABS
=============
___ 04:45PM BLOOD WBC-16.8* RBC-3.97* Hgb-12.6* Hct-35.9* 
MCV-90 MCH-31.7 MCHC-35.1 RDW-11.9 RDWSD-39.2 Plt ___
___ 04:45PM BLOOD Neuts-78* Bands-5 Lymphs-8* Monos-2* 
Eos-1 Baso-0 Atyps-1* Metas-5* AbsNeut-13.94* AbsLymp-1.51 
AbsMono-0.34 AbsEos-0.17 AbsBaso-0.00*
___ 04:45PM BLOOD Glucose-122* UreaN-9 Creat-0.5 Na-128* 
K-4.6 Cl-91* HCO3-24 AnGap-13
___ 04:45PM BLOOD Albumin-2.8* Calcium-8.3* Phos-3.5 Mg-1.7

IMAGES:
======

CXR (___)
Right greater than left lower lobe consolidations worrisome for 
multifocal 
pneumonia. 

MICRO:
=====
Flu (___): negative
Legionella (___): negative
Urine culture (___): negative
Blood culture (___): pending
MRSA Screen (___): pending

NOTABLE LABS
============
___ 05:37PM BLOOD Osmolal-265*
___ 04:45PM BLOOD TSH-1.6
___ 04:45PM BLOOD T4-7.3
___ 04:45PM BLOOD CRP-99.2*
___ 04:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS
==============
___ 01:43AM BLOOD WBC-19.1* RBC-4.20* Hgb-13.3* Hct-38.7* 
MCV-92 MCH-31.7 MCHC-34.4 RDW-12.2 RDWSD-41.4 Plt ___
___ 01:43AM BLOOD Neuts-72* Lymphs-18* Monos-9 Eos-0* 
___ Myelos-1* AbsNeut-13.75* AbsLymp-3.44 AbsMono-1.72* 
AbsEos-0.00* AbsBaso-0.00*
___ 01:43AM BLOOD Glucose-108* UreaN-15 Creat-0.8 Na-133* 
K-5.4 Cl-97 HCO3-27 AnGap-9*
___ 01:43AM BLOOD ALT-42* AST-41* LD(LDH)-287* AlkPhos-102 
TotBili-0.5
___ 01:43AM BLOOD Albumin-3.4* Calcium-9.4 Phos-4.5 Mg-2.3
 
Brief Hospital Course:
Mr ___ is a ___ year old man with no medical conditions 
who initially presented with altered mental status and 
hyponatremia in the setting of recent respiratory/GI illness.

# Hyponatremia: Initial labs were consistent with hypotonic 
hyponatremia, likely secondary to hypovolemia in the setting of 
GI losses. At OSH had received NS and hypertonic saline, and 
initially required free water at ___ ICU for over correction. 
Sodium subsequently resolved at an acceptable pace with IVF 
repletion. Whole blood Na 134, Serum Na 133 at time of 
discharge. Thyroid studies within normal limits (TSH 1.6, free 
T4 7.3). Nephrology team was consulted during admission for 
acute management. He was discharged with intent to ___ 
with PCP/NP visit 2 days post discharge for symptoms and ___ 
check.

# Toxic Metabolic Encephalopathy: Pt presented with 
hallucinations, paranoia on presentation to ___. Likely iso 
sodium abnormalities discussed above. No history of drug use per 
patient. Serum/urine toxicology screens negative this admission. 
On day of discharge he had a full normal neurologic exam, with 
normal orientation, mentation, thought process, and affectation. 
 

# Pneumonia: CXR on admission ___ demonstrated right greater 
than left lower lobe consolidations worrisome for multifocal 
pneumonia. Pt was started on a course of 
cefpodoxime/azithromycin (___), transitioned to levofloxacin 
for 7D course, last day ___. Flu and legionella were negative, 
however iso hyponatremia c/f possible false negative legionella 
thus will treat for possible legionella. On day of discharge, 
patient was ambulating independently in hall ways without 
dyspnea or room air and reported feeling "100% back to normal."

# Leukocytosis: WBC 19 on discharge ___. Concerning rise as pt 
is being treated appropriately for pneumonia as above. Pt 
without other localizing signs or symptoms of infection. Given 
the improvement in his other clinical parameters and patient's 
strong desire to leave the hospital on ___ it was agreed he 
could be discharged with close ___ monitoring with PCP and ___ 
___. Plan for repeat WBC at ___ ___ ___. 

# Transaminitis: ALT/AST 42/41, LDH 287 at time of discharge. 
Unclear cause. Hepatitis serologies pending at time of 
discharge. Plan for repeat LFT panel at ___ ___ ___. 

# Thrombocytosis: Elevated likely iso acute illness. Plan for 
repeat CBC at ___ ___ ___. 

TRANSITIONAL ISSUES:
=====================
[ ] Continue levofloxacin 750 mg QD (___) for presumed 
pneumonia
[ ] Repeat CBC, CMP on ___ at ___ ___
[ ] If LFTs remain elevated consider liver US. 
[ ] F/u hepatitis serologies (pending at time of discharge) 
[ ] F/u pending blood culture ___

#CODE: Full presumed
#CONTACT: ___, ___ 

Time spent coordinating discharge > 30 minutes. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*10 Capsule Refills:*0 
2.  Guaifenesin-Dextromethorphan ___ mL PO Q6H:PRN Cough 
RX *dextromethorphan-guaifenesin [Adult Robitussin Peak Cold DM] 
100 mg-10 mg/5 mL 1 cup by mouth three times a day Refills:*0 
3.  Levofloxacin 750 mg PO Q24H Duration: 5 Days 
last day ___ 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*5 
Tablet Refills:*0 
4.Outpatient ___ Work
DATE: ___ ICD10: J18.9, E87.1 LABS: CBC, CMP
SEND TO: ATTN: Rean ___
Phone: ___ Fax: ___
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Hyponatremia 
Toxic Metabolic Encephalopathy
Pneumonia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure to be part of  your care. 

You were admitted to the hospital with severely low sodium 
levels and altered mental status. 

Your low sodium level was likely because you became severely 
dehydrated as you were vomiting and had diarrhea. You received 
IV fluids to correct you sodium levels and your sodium level 
improved. 

This low sodium is likely an explanation for why you were so 
confused.

You were started on a course of antibiotics for a possible 
pneumonia. Please continue taking your levofloxacin 750 mg daily 
for a total of 7 days from your admission here, last day ___. 

Please follow up at the ___ Community health center ___ to 
have your labs checked and to see a health professional to 
ensure your labs are improving.  

If you experience any confusion, signs of dehydration, 
fevers/chills, recurrent nausea/vomiting, diarrhea then please 
seek medical attention. 

We wish you the best,
Your ___ team 
 
Followup Instructions:
___